** sch_path: /home/sunezh/sunezh_Analog_Bootcamp/analog/schematics/tb_output_impedance.sch
**.subckt tb_output_impedance
x1 net1 VOUT net3 VOUT net2 bootcamp_opamp
VDD net1 GND 1.8
VSS net2 GND 0
I0 VOUT GND dc 0 ac 1
VCM net3 GND 0.9
**** begin user architecture code

.op
.control
op
print v(vout)
ac dec 100 1 1G
meas ac zout find vm(vout) at=1k
plot vm(vout)
.endc


.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/sunezh/.volare/sky130A/libs.tech/ngspice/corners/tt.spice
.include /home/sunezh/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /home/sunezh/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include /home/sunezh/.volare/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice

**** end user architecture code
**.ends

* expanding   symbol:  bootcamp_opamp.sym # of pins=5
** sym_path: /home/sunezh/sunezh_Analog_Bootcamp/analog/schematics/bootcamp_opamp.sym
** sch_path: /home/sunezh/sunezh_Analog_Bootcamp/analog/schematics/bootcamp_opamp.sch
.subckt bootcamp_opamp VDD V+ V- VOUT VSS
*.ipin V+
*.ipin V-
*.opin VOUT
*.ipin VDD
*.ipin VSS
XM1 net1 V+ net3 VSS sky130_fd_pr__nfet_01v8 L=1 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net2 V- net3 VSS sky130_fd_pr__nfet_01v8 L=1 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 net2 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net3 net4 VSS VSS sky130_fd_pr__nfet_01v8 L=2 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 net4 net4 VSS VSS sky130_fd_pr__nfet_01v8 L=2 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 VOUT net4 VSS VSS sky130_fd_pr__nfet_01v8 L=0.5 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XC1 net2 VOUT sky130_fd_pr__cap_mim_m3_1 W=22 L=22 MF=1 m=1
R1 VDD net4 12k m=1
XM7 VOUT net2 VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=8 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends

.GLOBAL GND
.end
